US09382231B2
Step 2: 2,5-Difluoro-4-(3-hydroxyazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
A mixture of 2,4,5-trifluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide (6.39 g, 23.6 mmol), azetidin-3-ol hydrochloride (3.19 g, 28.3 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (8.81 mL, 58.9 mmol) in acetonitrile (25 mL) was stirred at 80° C. for 2 h. The reaction mixture was diluted with EtOAc (75 mL) and washed with 1N HCl (50 mL), 1N NaHCO3 (60 mL), 20% brine (50 mL) and water (75 mL). The aqueous layers were extracted with EtOAc (100 mL). The organic layers were combined, dried over MgSO4, filtered and concentrated under reduced pressure to yield the desired product (7.59 g, 91.8%). 1H NMR (300 MHz, DMSO-d6) δ 8.38 (dd, J=8.9, 1.9 Hz, 1H), 7.27 (dd, J=12.8, 6.5 Hz, 1H), 6.38 (dd, J=12.3, 7.5 Hz, 1H), 5.71 (d, J=6.4 Hz, 1H), 4.74 (dp, J=15.3, 7.6 Hz, 1H), 4.62-4.46 (m, 1H), 4.30-4.15 (m, 2H), 3.71 (m, 2H), 1.29 (d, J=7.1 Hz, 3H) ppm. LCMS cacld. for C13H14F5N2O2 (M+1)+: m/z=325.1. Found: 325.1.

reactant | 2,4,5-trifluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 23.6 mmol, 6.39 g | FC1=C(C(=O)N[C@H](C(F)(F)F)C)C=C(C(=C1)F)F | C10H7F6NO
reactant | azetidin-3-ol hydrochloride | 28.3 mmol, 3.19 g | Cl.N1CC(C1)O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 58.9 mmol, 8.81 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 2,5-Difluoro-4-(3-hydroxyazetidin-1-yl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | 7.59 g, 91.8% | FC1=C(C(=O)N[C@H](C(F)(F)F)C)C=C(C(=C1)N1CC(C1)O)F | C13H13F5N2O2
